US06071927
Methyl 3-Bromo-4-hydroxyphenylethanoate
Bromine (16.59 g, 104 mmol) in chloroform (25 mL) was added dropwise to a stirred, cooled (0° C.) mixture of methyl 4-hydroxyphenylethanoate (17.25 g, 104 mmol) and acetic acid (10 mL) in chloroform (140 mL). The mixture was stirred at 0° C. for 1 h., diluted with dichloromethane (100 mL), washed with water (2×200 mL) and brine (200 mL), dried (MgSO4) and the solvent was evaporated under reduced pressure to give the title compound as a colorless solid (25.43 g, 100%). 1H NMR (360 MHz, CDCl3) δ7.39 (1 H, d, J 2.0 Hz), 7.12 (1 H, dd, J 8.3, 2.0 Hz), 6.96 (1 H, d, J 8.3 Hz), 5.54 (1 H, br s), 3.70 (3 H, s), and 3.54 (2 H, s).

reactant | Bromine | 104 mmol, 16.59 g | BrBr | Br2
reactant | methyl 4-hydroxyphenylethanoate | 104 mmol, 17.25 g | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 140 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Methyl 3-Bromo-4-hydroxyphenylethanoate | 25.43 g, 100% | BrC=1C=C(C=CC1O)CC(=O)OC | C9H9BrO3
